US04739114
Preparation of 5-Isopropyl-1,3-Cyclohexanedione
To a fresh solution of sodium ethoxide prepared from 23 g (1.0 mole) of sodium and 700 ml of absolute ethanol is added 168.2 g (1.05 mole) of diethyl malonate and 114.24 g (1.02 mole) of distilled 5-methyl-3-hexene-2-one. The mixture is refluxed for 1 hour; an additional 125 ml of ethanol added; and refluxing continued for two more hours. A solution of 123.4 g of potassium hydroxide in a 600 ml of water is then added and the reaction mixture refluxed for 6 hours. The mixture is then neutralized with 12% hydrochloric acid to pH 4. The ethanol is distilled and the mixture treated with three 15 g portions of activated charcoal. The hot reaction mixture is filtered through filter aid after acidification to pH 2. The product is extracted with hot isopropyl ether (700 ml). Cooling of the isopropyl ether layer results in 60.5 g (40% yield) of the product, m.p. 52°- 65° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.0 mole, 23 g | [Na] | Na
reactant | diethyl malonate | 1.05 mole, 168.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-methyl-3-hexene-2-one | 1.02 mole, 114.24 g | CC(C=CC(C)=O)C | C7H12O
reactant | potassium hydroxide | 123.4 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 600 ml | O | H2O
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 5-Isopropyl-1,3-Cyclohexanedione | 60.5 g, 40% yield | C(C)(C)C1CC(CC(C1)=O)=O | C9H14O2
